US07964204B2
Step A: Preparation of methyl 4-[(hydroxyimino)methyl]-1-naphthalenecarboxylate
To a stirred solution of methyl 4-formyl-1-naphthalenecarboxylate (2.2 g, 10.3 mmol) in methanol (50 mL) was added a solution of hydroxylamine (1.33 mL, 50% in water). After stirring at room temperature for 2 h, the reaction mixture was concentrated under reduced pressure to provide the title compound as a pale yellow solid (2.55 g).

reactant | methyl 4-formyl-1-naphthalenecarboxylate | 10.3 mmol, 2.2 g | C(=O)C1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H10O3
reactant | hydroxylamine | 1.33 mL | NO | H3NO
solvent | methanol | 50 mL | CO | CH4O
product | methyl 4-[(hydroxyimino)methyl]-1-naphthalenecarboxylate | 2.55 g | ON=CC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H11NO3
